US06960575B2
DL-N-tert-Butoxycarbonylcyclohexylglycine (Reference compound No. 53-1)
Under a nitrogen atmosphere, 5% rhodium/alumina (3.00 g) is added to a solution of DL-N-tert-butoxycarbonylphenylglycine in ethanol (80 ml). The atmosphere is replaced with pressurized hydrogen (4.0 kgf/cm2) and stirred for ten days. The 5% rhodium/alumina is filtered out. The filtrate is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography to give the titled reference compound (25.0 g).

reactant | N-tert-butoxycarbonylphenylglycine | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | rhodium/alumina | 3.00 g | [Rh] | Rh
product | N-tert-Butoxycarbonylcyclohexylglycine | 25.0 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C1CCCCC1 | C13H23NO4
